US04824837
5-[2-(4-Benzhydrylpiperazin-1-yl)ethyl]oxycarbonyl-2-chloro-3-methoxycarbonyl-6-methyl-4-(3-nitrophenyl)-1,4-dihydropyridine (Compound No. SUN 4752)
5-[2-(4-Benzhydrylpiperazin-1-yl)ethyl]oxycarbonyl-2-hydroxy-3-methoxycarbonyl-6-methyl-4-(3-nitrophenyl)-1,4-dihydropyridine (390 mg) was dissolved in phosphorus oxychloride (5 ml) and the mixture was heated under reflux for 3 hours and 10 minutes. After excess phosphorus oxychloride had been distilled off under reduced pressure, the reaction mixture was diluted with saturated potassium carbonate and subjected to extraction with chloroform. The extract was distilled off and the residue was subjected to silica gel column chromatography (elution solvent: 1% chloroform/methanol), thereby obtaining crude crystals. This crude crystals were recrystallized from a solution of chloroform/isopropylether/hexane to yield 210 mg (57.2%) of the desired compound.

reactant | 5-[2-(4-Benzhydrylpiperazin-1-yl)ethyl]oxycarbonyl-2-hydroxy-3-methoxycarbonyl-6-methyl-4-(3-nitrophenyl)-1,4-dihydropyridine | 390 mg | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CCN(CC1)CCOC(=O)C=1C(C(=C(NC1C)O)C(=O)OC)C1=CC(=CC=C1)[N+](=O)[O-] | C34H36N4O7
reactant | phosphorus oxychloride | 5 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 5-[2-(4-Benzhydrylpiperazin-1-yl)ethyl]oxycarbonyl-2-chloro-3-methoxycarbonyl-6-methyl-4-(3-nitrophenyl)-1,4-dihydropyridine | 210 mg, 57.2% | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CCN(CC1)CCOC(=O)C=1C(C(=C(NC1C)Cl)C(=O)OC)C1=CC(=CC=C1)[N+](=O)[O-] | C34H35ClN4O6
